US08192892B2
15 g (0.1 mol) of t-butylphenol, 6.31 g (0.21 mol) of p-formaldehyde and 10.24 g (0.11 mol) of aniline were added to a 100 ml one-neck round-bottom flask and mixed in an oil bath at 90° C. When the initially opaque mixture became a dark brown transparent gel type material after about 30 minutes, the reaction was quenched using tetrahydrofuran (THF), and then the mixture was cooled to room temperature. The cooled crude product was base-washed twice through a solvent extraction using a 1N NaOH aqueous solution, and washed once with deionized water. After washing, the organic layer was dried with MgSO4 and filtered. The residual solution was dried using a rotary evaporator to remove the solvent, and the purified product was dried in a vacuum oven at 40° C. for 6 hours to obtain t-BuPh-a.

reactant | t-butylphenol | 0.1 mol, 15 g | C(C)(C)(C)C1=C(C=CC=C1)O | C10H14O
reactant | aniline | 0.11 mol, 10.24 g | NC1=CC=CC=C1 | C6H7N
product | t-BuPh | C(C)(C)(C)C1=CC=CC=C1 | C10H14
